US03974156
A mixture of 3-methoxyaniline (12.5 g.) and 4-benzyl-2-toluene-p-sulphonyloxymethylmorpholine (18.6 g.) is stirred and heated on the steam bath (95°C.) under nitrogen for 24 hours. The mixture is cooled and ether added. The solid thus obtained is collected and crystallised from ethyl acetate to give 4-benzyl-2-(3-methoxyanilino)methylmorpholine toluene-p-sulphonate, m.p. 102-103°C. The toluene-p-sulphonate salt is converted into the corresponding dihydrochloride by basifying it with dilute sodium hydroxide solution, extracting the base into ether (3 × 200 ml.), washing the ethereal extract with water and then drying it over anhydrous magnesium sulphate followed by filtration and treatment of the ethereal solution of base with ethereal hydrochloric acid solution. The 4-benzyl-2-(3-methoxyanilino)methylmorpholine dihydrochloride monohydrate melts at 116-118°C. after crystallisation from methanol/ethyl acetate.

reactant | 3-methoxyaniline | 12.5 g | COC=1C=C(N)C=CC1 | C7H9NO
reactant | 4-benzyl-2-toluene-p-sulphonyloxymethylmorpholine | 18.6 g | C(C1=CC=CC=C1)N1CC(OCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C19H23NO4S
solvent | ether | CCOCC | C4H10O
product | 4-benzyl-2-(3-methoxyanilino)methylmorpholine toluene-p-sulphonate | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)N1CC(OCC1)CNC1=CC(=CC=C1)OC | InChI=1S/C19H24N2O2.C7H8O3S/c1-22-18-9-5-8-17(12-18)20-13-19-15-21(10-11-23-19)14-16-6-3-2-4-7-16;1-6-2-4-7(5-3-6)11(8,9)10/h2-9,12,19-20H,10-11,13-15H2,1H3;2-5H,1H3,(H,8,9,10)
